US05563147
3-(Mesyloxyethyl)benzothiazolin-2-one
Methanesulfonyl chloride (1.625 ml, 2.4 g, 21 mmol) in dichloromethane (10 ml) was added dropwise with stirring to 3-(2-hydroxyethyl)benzothiazolin-2-one (3.9 g, 20 mmol) (J. J. D'Amico and F. G. Bollinger; J. Heterocyclic Chemistry 1988, 25, 1601).and triethylamine (3.478 ml, 2.525 g, 25 mmol) in dichloromethane (80 ml) and stirred for one hour at room temperature. The reaction mixture was then washed with water and dried (MgSO4), filtered and the solvent evaporated in-vacuo to give the title product.

reactant | Methanesulfonyl chloride | 21 mmol, 1.625 ml, 2.4 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-(2-hydroxyethyl)benzothiazolin-2-one | 20 mmol, 3.9 g | OCCN1C(SC2=C1C=CC=C2)=O | C9H9NO2S
reactant | triethylamine | 25 mmol, 3.478 ml, 2.525 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 3-(Mesyloxyethyl)benzothiazolin-2-one | S(=O)(=O)(C)OCCN1C(SC2=C1C=CC=C2)=O | C10H11NO4S2
